US06919356B2
Part M: Preparation of 1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-3-{trans-1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidin-3-ylmethyl}-urea
A solution of trans-1-[2-(4-fluorophenyl)ethyl]-4-methyl-piperidin-3-ylmethylamine (12 mg, 46 μmol) and [3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester (15 mg, 46 μmol) in N,N-dimethylformamide (0.5 mL) was treated with triethylamine (13 μL, 93 μmol). After 23 hours, the mixture was concentrated under vacuum. The residue was purified by flash chromatography, eluting with 3% methanol in dichloromethane containing 0.3% aqueous ammonium hydroxide, provided an amorphous solid (19 mg, 86%). 1H NMR (300 MHz, CDCl3) δ7.71 (s, 1H), 7.64 (s, 1H), 7.11 (m, 3H), 6.91 (t, J=9 Hz, 2H), 4.17 (s, 3H), 3.6-3.3 (m, 3H), 3.2-2.9 (m, 6H), 2.66 (q, J=7 Hz, 2H), 2.50 (m, 1H), 1.9-1.7 (m, 3H), 1.42 (m, 1H), 1.24 (t, J=7 Hz, 3H), 1.01 (d, J=7 Hz, 3H). Mass spec (ES+) m/z 480.4 (M+H+, 100%).

reactant | trans-1-[2-(4-fluorophenyl)ethyl]-4-methyl-piperidin-3-ylmethylamine | 46 μmol, 12 mg | FC1=CC=C(C=C1)CCN1C[C@H]([C@@H](CC1)C)CN | C15H23FN2
reactant | [3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester | 46 μmol, 15 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC(=C1)C1=NN=NN1C)CC)=O | C17H17N5O2
reactant | triethylamine | 93 μmol, 13 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-3-{trans-1-[2-(4-fluorophenyl)-ethyl]-4-methylpiperidin-3-ylmethyl}-urea | 19 mg, 86% | C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)NC[C@@H]1CN(CC[C@H]1C)CCC1=CC=C(C=C1)F | C26H34FN7O
